US04705793
A suspension of 5-amino-4-cyano-1-(2hydroxyethyl)pyrazole (40 g.) and triphenylphosphine (82.7 g.) in dichloromethane (300 ml.) was cooled in a room temperature water bath while carbon tetrachloride (127 ml.) was added dropwise over 45 minutes. The resulting suspension was stirred at room temperature under nitrogen overnight, and the volatiles were then removed on a rotary evaporator, leaving an orange semisolid. This was treated with boiling EtOAc (500 ml.), chilled at 0° , filtered, and the filtrate evaporated to dryness. The residue was redissolved in THF (300 ml.) and evaporated onto flash silica gel (160 g.). This material was placed atop a column of flash silica gel (300 g.) and the desired product eluted with EtOAc/hexane (1:1 v/v). Contaminating triphenylphosphine oxide was removed by trituration with dichloromethane/hexane (1:1 v/v). The remaining solid was then recrystallized from EtOAc to give 5-amino-1-(2-chloroethyl)-4-cyanopyrazole (29.07 g.) as white crystals: m.p. 155.5-156.5 °.

reactant | 5-amino-4-cyano-1-(2hydroxyethyl)pyrazole | 40 g | NC1=C(C=NN1CCO)C#N | C6H8N4O
reactant | triphenylphosphine | 82.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 127 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 5-amino-1-(2-chloroethyl)-4-cyanopyrazole | 29.07 g | NC1=C(C=NN1CCCl)C#N | C6H7ClN4
